US08895547B2
Trifluoromethanesulfonic acid 4-{2-[(S)-3-(tert-butyldimethylsilanyloxy)-1-phenylpropylamino]-6,6-dimethyl-4,4-dioxo-5,6-dihydro-4H-4lambda6-1,4,3-oxathiazin-5-yl}phenyl ester
Under inert gas, 450 mg of 4-{2-[(S)-3-(tert-butyldimethylsilanyloxy)-1-phenylpropylamino]-6,6-dimethyl-4,4-dioxo-5,6-dihydro-4H-4lambda6-1,4,3-oxathiazin-5-yl}phenol were initially charged in 10 ml of methylene chloride and then, while cooling with ice, 0.18 ml of triethylamine and 0.18 ml of trifluoromethanesulfonic anhydride were added. The reaction mixture was allowed to come to room temperature and stirred for a further 2 hours. Subsequently, 20 ml of water were added, the phases were separated and the aqueous phase was extracted twice more with 20 ml of methylene chloride. The combined organic phases were washed with 1 N aqueous hydrochloric acid, dried over MgSO4 and concentrated by rotary evaporation. The residue (355 mg) with a molecular weight of 650.8 g/mol (C27H37F3N2O7S2Si); MS (ESI): m/e=651 (M+H+) was used in the next reaction without further purification.

reactant | 4-{2-[(S)-3-(tert-butyldimethylsilanyloxy)-1-phenylpropylamino]-6,6-dimethyl-4,4-dioxo-5,6-dihydro-4H-4lambda6-1,4,3-oxathiazin-5-yl}phenol | 450 mg | [Si](C)(C)(C(C)(C)C)OCC[C@@H](C1=CC=CC=C1)NC=1OC(C(S(N1)(=O)=O)C1=CC=C(C=C1)O)(C)C | C26H38N2O5SSi
reactant | triethylamine | 0.18 ml | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 0.18 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | water | 20 ml | O | H2O
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | Trifluoromethanesulfonic acid 4-{2-[(S)-3-(tert-butyldimethylsilanyloxy)-1-phenylpropylamino]-6,6-dimethyl-4,4-dioxo-5,6-dihydro-4H-4lambda6-1,4,3-oxathiazin-5-yl}phenyl ester | [Si](C)(C)(C(C)(C)C)OCC[C@@H](C1=CC=CC=C1)NC=1OC(C(S(N1)(=O)=O)C1=CC=C(C=C1)OS(=O)(=O)C(F)(F)F)(C)C | C27H37F3N2O7S2Si
